US04933355
5-[2-(3-phenylureido)thiazol-4-ylmethylene]rhodanine-3-acetic acid
A mixture comprising 1 g of 2-(3-phenylureido)thiazole-4-carbaldehyde, 0.85 g of rhodanine-3-acetic acid, 0.76 g of piperidine and 15 ml of ethanol was stirred at room temperature for 2 hours, and the resulting mixture was left to stand overnight. The crystals which precipitated out were collected by filtration dispersed in dilute aqueous hydrochloric acid, and washed with stirring for 30 minutes. The resulting crystalline product was recrystallized from a mixture of acetic acid and ethyl acetate, giving 0.78 g of the desired compound as an orange powder.

reactant | 2-(3-phenylureido)thiazole-4-carbaldehyde | 1 g | C1(=CC=CC=C1)NC(NC=1SC=C(N1)C=O)=O | C11H9N3O2S
reactant | rhodanine-3-acetic acid | 0.85 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | piperidine | 0.76 g | N1CCCCC1 | C5H11N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-[2-(3-phenylureido)thiazol-4-ylmethylene]rhodanine-3-acetic acid | 0.78 g | C1(=CC=CC=C1)NC(NC=1SC=C(N1)C=C1C(N(C(S1)=S)CC(=O)O)=O)=O | C16H12N4O4S3
